US08497278B2
(6-Methyl-2-p-tolyl-imidazo[1,2-a]pyridin-3-ylmethyl)-[1,2,4]triazin-3-yl-amine (145)
The title compound was prepared according to Method A and the experimentals described for compound 139 from 3-(chloromethyl)-6-methyl-2-p-tolylimidazo[1,2-a]pyridine hydrochloride and 1,2,4-triazin-3-amine. m/e+ 331 for C19H19N6 [M+H]+; 1H-NMR (400 MHz, CDCl3) δ 8.60 (d, J=2.2 Hz, 1H), 8.04 (s, 1H), 8.00 (d, J=2.2 Hz, 1H), 7.86 (s, 1H), 7.64 (d, J=8.0 Hz, 2H), 7.53 (d, J=9.1 Hz, 1H), 7.22 (d, J=8.0 Hz, 2H), 7.05 (dd, J=1.4, 9.1 Hz, 1H), 5.11 (s, 2H), 2.37 (s, 3H), 2.27 (s, 3H) ppm.

reactant | 3-(chloromethyl)-6-methyl-2-p-tolylimidazo[1,2-a]pyridine hydrochloride | Cl.ClCC1=C(N=C2N1C=C(C=C2)C)C2=CC=C(C=C2)C
reactant | 1,2,4-triazin-3-amine | N1=NC(=NC=C1)N | C3H4N4
product | (6-Methyl-2-p-tolyl-imidazo[1,2-a]pyridin-3-ylmethyl)-[1,2,4]triazin-3-yl-amine | CC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)C)CNC=2N=NC=CN2 | C19H18N6
